2113-09-30 07:09:00 Physician Resident Progress Note
24 Hour Events:
   Per nursing, nauseous for a short time yesterday evening, resolved
   without intervention - dilantin converted to IV to ensure
   HD today (renal asking for timing preference)
   EEG done- showed encephalopathy but no epileptiform features
   Foley replaced
 no output, bladder scan
 75, flush with return and,
   eventually, 10 ccs back
   Allergies:
   Lisinopril
   hyperkalemia at
   Verapamil
   Nausea/Vomiting
   Beta-Adrenergic Agents
   bradycardia;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-9-30**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.9
C (98.4
   HR: 89 (81 - 101) bpm
   BP: 136/56(77) {121/53(76) - 184/112(123)} mmHg
   RR: 28 (18 - 34) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    540 mL
                                                                     70 mL
   PO:
             TF:
   IVF:
                                                                    470 mL
                                                                     70 mL
   Blood products:
   Total out:
                                                                     50 mL
                                                                      5 mL
   Urine:
   5 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                    490 mL
                                                                     65 mL
   Respiratory support
   O2 Delivery Device: None, Venti mask
   SpO2: 96%
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: No(t) Soft, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent, right metatarsal amputation
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Normal
   Labs / Radiology
   171 K/uL
   11.6 g/dL
   141 mg/dL
   8.0 mg/dL
   26 mEq/L
   5.0 mEq/L
   46 mg/dL
   98 mEq/L
   141 mEq/L
   36.8 %
   11.7 K/uL
        [image002.jpg]
                             [**2113-9-29**]  12:37 PM
                             [**2113-9-30**]  04:30 AM
   WBC
   10.3
   11.7
   Hct
   40.4
   36.8
   Plt
   176
   171
   Cr
   6.8
   8.0
   TropT
   0.36
   Glucose
   149
   141
   Ca++:10.2 mg/dL, Mg++:1.9 mg/dL, PO4:5.5 mg/dL
   EEG [**9-29**]
   Abnormal routine EEG due to the slow background with
   occasional suppressive bursts. These findings suggest a widespread
   encephalopathy affecting both cortical and subcortical structures.
   Medications, metabolic disturbances, and infection are among the most
   common causes. Hypoxia is another possible explanation. Nevertheless,
   there were no areas of prominent focal slowing although
   encephalopathies
   can obscure focal findings. There were no clearly epileptiform
   features.
   CT head [**9-28**]
   Unchanged
   appearance of right parietal subdural hematoma and right frontal
   intraparenchymal hemorrhage. No new large areas of hemorrhage
   identified.
   CT abd/pelvis/chest [**9-28**]
   1. No evidence of retroperitoneal bleed.
   2. Cholelithiasis, unchanged.
   3. Bilateral renal hypodensities, likely cysts, stable in appearance.
   Assessment and Plan
   79 yo woman with h/o esrd on hd, dm, pvd who presents with SDH and IPH
   after a syncopal episode, hypertension and seizure.
   79 yo woman with ESRD on HD who was admitted to medicine [**2113-9-28**] after
   fall of unclear etiology with head trauma and CT scan + for small right
   parietal SDH and right frontal superior intraparenchymal hemorrhage.
   Her hospital course has been notable for somnolance peri-HD this
   afternoon and afterwards. She was triggered for change in mental status
   around midnight
   # Seizure: Most likely related to SDH/IPH with subtheraputic phenytoin
   but also could be [**2-18**] hypertensive emergency given BP elevated to 180s
   at the time of seizure. No known seizure history.
   - Reload with phenytoin iv, then continue maintenanc dose po, check
   level 2-4 hours after load, goal level per neuro ([**11-1**] vs 15-20)
   - seizure and aspiration precuations
   - EEG
   - given wittnessed aspiration monitor for progression of symptoms with
   fever, leukocytosis, sputum, progressive infiltrate, tachypnea to help
   differentiate aspiration pneumonia vs. pneumonitis
   # SDH/IPH: Likely traumatic given fall though also possible [**2-18**]
   hypertension given newly elevated BP in house. Stable by imaging.
   Neurosurgery following, appreciate recs.
   - cont phenytoin as above, hold aspirin
   - neuro checks q2
   - repeat imaging per neurosurgery
   # Hypertension: Temporally related to hemorrhage, though unclear if
   preceeded or followed hemorrhage. Relatively significant increase from
   her documented baseline of 130-150 though given pvd and dm it is
   reasonable to think her arteries are generally less compliant so she
   would have hypertensive response with relatively less stimulation.
   Regardless requires improved control given seizure at SBP 180.
   - will avoid hydralazine in her as may cause cerebro-vasodilation
   - will try labetolol iv (test dose of 5mg iv to start, uptitrate as she
   requires) to achieve SBP goal 140-160.
   - close hemodynamic monitoring
   # Syncope: Unclear exact history but per team no post-ictal state at
   that time making seizure less likely for that. Arrythmia, sturctural
   heart abnormality are possible, as is dehydration and hypoglycemia.
   - monitor on tele
   - consider tte when more stable
   - f/u eeg but treatment based on in-hospital event
   - f/u thyroid studies
   - obtain further history to evaluate
   # Toxic Mulitinodular Goiter: Check TSH, fT4, T4 given hypertension
   thoguh doubt thyrotoxicosis though this could present atypically in a
   79 yo and could explain both htn and syncope via arrhythmia.
   - continue methimazole
   - f/u thyroid studies
   # Diabetes: Hold oral hypoglycemics, SSI with q6 accu checks. Running
   in high 100s.
   # ESRD: on HD, continue cinacalcet and HD per renal recs.
   # CAD: holding aspirin as above but continue atorvastatin.
   #: Nutrition: NG to suction, consider TF while somnolent but hopeful
   that she will wake and be able to take po, replete lytes.
   # PPX: pneumoboots, bowel regimen, no gi currently but could add if
   elevated icp, ssi.
   # Access: NGT, right femoral CVC, right tunnelled IJ HD cath.
   # Code: full, confirmed with sister.
   # Contact: [**First Name8 (NamePattern2) **] [**Name (NI) **] SISTER/hcp [**Telephone/Fax (1) 1589**] CELL
   [**Numeric Identifier 1590**]
   # Dispo: ICU pending hemodynamic and neurologic stability.

2113-10-01 07:48:00 Physician Resident Progress Note
24 Hour Events:
   - Head CT- no change in SDH/IPH
   - Attempted LP (unsuccessful); plan for LP under fluoro this am
   - Intubated for MRI; will stay intubated for LP this am
   - MRI/MRA last night- required paralyzation
   - Repeat Dilantin level this am (free level from yesterday and this am,
   still pending)
   - Febrile to 101 at 4pm yesterday
   Allergies:
   Lisinopril
   hyperkalemia at
   Verapamil
   Nausea/Vomiting
   Beta-Adrenergic Agents
   bradycardia;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-10-1**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 36.3
C (97.3
   HR: 83 (78 - 91) bpm
   BP: 151/61(81) {111/43(66) - 188/100(111)} mmHg
   RR: 12 (12 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    342 mL
                                                                     50 mL
   PO:
             TF:
   IVF:
                                                                    282 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  2,010 mL
                                                                      0 mL
   Urine:
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,668 mL
                                                                     50 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: AC
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 187 (187 - 187) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 25 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: ///28/
   Ve: 7.5 L/min
   Physical Examination
   General Appearance: Well nourished, slight distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), soft systolic murmur
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, No(t) Distended, grimace with
   palpation
   Extremities: right metatarsal amputation
   Neurologic: difficult to assess, ? clonus in feet
   Labs / Radiology
   149 K/uL
   12.0 g/dL
   141 mg/dL
   6.0 mg/dL
   28 mEq/L
   4.0 mEq/L
   29 mg/dL
   98 mEq/L
   138 mEq/L
   38.9 %
   10.2 K/uL
        [image002.jpg]
                             [**2113-9-29**]  12:37 PM
                             [**2113-9-30**]  04:30 AM
                             [**2113-9-30**]  11:40 AM
                             [**2113-10-1**]  04:20 AM
   WBC
   10.3
   11.7
   10.2
   Hct
   40.4
   36.8
   38.9
   Plt
   176
   171
   149
   Cr
   6.8
   8.0
   6.0
   TropT
   0.36
   0.34
   Glucose
   149
   141
   141
   Other labs: PT / PTT / INR:14.9/70.4/1.3,
   ALT / AST:13/16, Alk Phos / T Bili:102/0.3, Amylase / Lipase:67/14
   Albumin:3.8 g/dL,
   Ca++:10.2 mg/dL, Mg++:2.2 mg/dL, PO4:4.9 mg/dL
   PHT [**9-30**]: 10.8
   PHT [**10-1**]: 11 and 12.1
   Assessment and Plan
   79 yo woman with h/o esrd on hd, dm, pvd who presents with SDH and IPH
   after a syncopal episode at home, hypertension and seizure.  Intubated
   on [**9-30**] for MRI with goal of extubation on [**10-1**] following LP under
   fluoro.
   # AMS: Continues to have AMS.  Most likely due to SDH/IPH.  Other
   etiologies include infectious, toxic-metabolic, seizure, CVA
   - Follow up MRI from [**9-30**]
   - To get LP today, [**10-1**], under fluoro
   - Too far out from seizure to be post-ictal
   - EEG did not show seizure activity
   - EEG did show encephalopathy- could be infectious or toxic-metabolic
   - Following lytes
   - Tox screen neg
   - Follow dilantin level.  Goal between 10 and 20.  Today [**11-29**].
   - Follow up final neuro recs
   - Avoid sedating meds as much as possible
   - Head CT did not show any change
   # Seizure: No known history of seizure, EEG was neg, but was already on
   Dilantin at time of study.  Most likely [**2-18**] SDH/IPH.  Other possible
   etiologies include hypertensive emergency (BPs 180s at time of seizure)
   or infectious (i.e. meningitis/encephalitis).
   # SDH/IPH: Likely traumatic given fall though also possible [**2-18**]
   hypertension given newly elevated BP in house. Stable by imaging.
   Neurosurgery following, appreciate recs.
   # Hypertension: Temporally related to hemorrhage, though unclear if
   preceeded or followed hemorrhage. Relatively significant increase from
   her documented baseline of 130-150 though given pvd and dm it is
   reasonable to think her arteries are generally less compliant so she
   would have hypertensive response with relatively less stimulation.
   Regardless requires improved control given seizure at SBP 180.
   - Start po Labetalol 200 [**Hospital1 7**]
   - IV Labetalol prn for SBPs>150
   # Syncope: Unclear exact history but per team no post-ictal state at
   that time making seizure less likely for that. Arrythmia, sturctural
   heart abnormality are possible, as is dehydration and hypoglycemia.
   - monitor on tele
   - consider tte when more stable
   # Fever:
   - Had a witnessed aspiration event but no new infiltrates seen on CXR,
   not hypoxic.  Hold on empiric treatment
   - Concern for meningitis/encephalitis. Can consider LP but will be
   difficult given her AMS. Will check with neuro
   - Blood and urine cultures
   - CXR tomorrow
   # Toxic Mulitinodular Goiter:  TSH <0.02 which is usual; FT4 1.5
   - Restarted methimazole on [**10-1**].
   - Unlikely to be cause of current issues; but important to consider if
   no other cause arises
   # Diabetes: Hold oral hypoglycemics, SSI with q6 accu checks. Running
   in high 100s.
   # ESRD: on HD, continue cinacalcet and HD per renal recs.  [**Month (only) 51**] need
   phos binder when able to take po
   # CAD: holding aspirin as above but continue atorvastatin.
   #: Nutrition: NG tube in place, consider TF while somnolent but hopeful
   that she will wake and be able to take po, replete lytes.
   # PPX: pneumoboots, bowel regimen, SSI, will need PPI vs H2 blocker if
   she stays intubated longer than today
   # Access: right femoral CVC, right tunnelled IJ HD cath, schedule for
   PICC on Monday
   # Code: full, confirmed with sister.
   # Contact: [**First Name8 (NamePattern2) **] [**Name (NI) **] SISTER/hcp [**Telephone/Fax (1) 1589**] CELL
   [**Numeric Identifier 1590**]
   # Dispo: ICU pending hemodynamic and neurologic stability.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2113-9-29**] 06:32 AM
   Multi Lumen - [**2113-9-29**] 07:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2113-10-02 05:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 LUMBAR PUNCTURE - At [**2113-10-1**] 11:30 AM:  Pt brought down to IR for
   LP
   SBT at 5PM folllowing LP: apnea ([**2-18**] sedation?), on AC o/n, with plan
   to switch to PS and do SBT in early AM
   Hypotensive following first dose of labetolol, responded to 500 cc IVF
   Allergies:
   Lisinopril
   hyperkalemia at
   Verapamil
   Nausea/Vomiting
   Beta-Adrenergic Agents
   bradycardia;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-10-2**] 05:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.7
C (99.8
   HR: 89 (79 - 98) bpm
   BP: 127/46(65) {85/43(57) - 154/72(91)} mmHg
   RR: 13 (8 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    819 mL
                                                                     54 mL
   PO:
             TF:
   IVF:
                                                                    639 mL
                                                                     54 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    819 mL
                                                                     54 mL
   Respiratory support
   Ventilator mode: Presure Support
   PresureSupport: 12cmH20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 150-190
   Physical Examination
   Peripheral Vascular: (Right radial pulse: 2+), (Left radial pulse: 2+),
   (Right DP pulse: 2+), (Left DP pulse: 2+)
   Skin:  Warm and Dry
   Neurologic: Responds to voice, touch, variable to command. Movement:
   spontaneous and to command, Tone: weak
   Labs / Radiology
   161 K/uL
   11.3
   129 mg/dL
   7.9
   23 mEq/L
   4.5
   46 mg/dL
   97 mEq/L
   140 mEq/L
   37.2
   12.5 K/uL
        [image002.jpg]
                             [**2113-9-29**]  12:37 PM
                             [**2113-9-30**]  04:30 AM
                             [**2113-9-30**]  11:40 AM
                             [**2113-10-1**]  04:20 AM
   WBC
   10.3
   11.7
   10.2
   12.5
   Hct
   40.4
   36.8
   38.9
   37.2
   Plt
   176
   171
   149
   129
   Cr
   6.8
   8.0
   6.0
   7.9
   TropT
   0.36
   0.34
   Glucose
   149
   141
   141
   129
   Other labs: PT / PTT / INR:14.9/70.4/1.3, CK / CKMB /
   Troponin-T:136/4/0.34, ALT / AST:13/16, Alk Phos / T Bili:102/0.3,
   Amylase / Lipase:67/14, Differential-Neuts:84.9 %, Lymph:9.6 %,
   Mono:4.7 %, Eos:0.4 %, Albumin:3.8 g/dL, Ca++:10.2 mg/dL, Mg++:2.2
   mg/dL, PO4:4.9 mg/dL
   Fluid analysis / Other labs: CSF: [**10-1**]: WBC 3, RBC, 690,
   P5/L54/Mon0/Mac41, Prot 102, Glu 93
   Imaging: Head CT: No significant change in right parietooccipital
   subdural hematoma or right frontal intraparenchymal hemorrhage since
   one day prior.
   MRI: 1) acute SDH, unchanged, mild mass effect, unchanged, no midine
   shift 2) small SAH 3) no acute infarction, 4) unremarkable MRA.
   Assessment and Plan
   79 yo woman with h/o esrd on hd, dm, pvd who presents with SDH and IPH
   after a syncopal episode at home, hypertension and seizure.  Intubated
   on [**9-30**] for MRI with goal of extubation on [**10-1**] following LP under
   fluoro, unable to be removed from vent and persistent decreased MS [**First Name (Titles) **]
[**Last Name (Titles) 1691**]ves.
   # Ventiliation:  Requirng ventilation with  high RSBI 150-190, did not
   have previous respiratory failure, should be able to come off of vent.
   -continue following RSBIs, consider SBTs even with RSBIs>100,
   -elevate head of bed
   -CXR for developing PNA from ?aspiration after seizure
   # AMS: Continues to have AMS.  Most likely due to SDH/IPH.  Other
   etiologies include infectious, toxic-metabolic, seizure, CVA
   - MRI shows no interval change, no evidence of infarction, no midline
   shift, MRA shows no stenosis.
   - LP negative for pleocytosis
   - Too far out from seizure to be post-ictal
   - EEG did not show seizure activity
   - EEG did show encephalopathy- could be infectious or toxic-metabolic
   - Following lytes
   - Tox screen neg
   - Follow dilantin level.  Goal between 10 and 20.  Today 10.3. Increase
   dilantin if falls <10.
   - Avoid sedating meds as much as possible
   - Check CXR, Urine, for sites of occult infection
   # Seizure: No known history of seizure, EEG was neg, but was already on
   Dilantin at time of study.  Most likely [**2-18**] SDH/IPH.  Other possible
   etiologies include hypertensive emergency (BPs 180s at time of seizure)
   or infectious (i.e. meningitis/encephalitis).
   -Follow dilantin levels
   # SDH/IPH: Likely traumatic given fall though also possible [**2-18**]
   hypertension given newly elevated BP in house. Stable by imaging.
   Neurosurgery following, appreciate recs.
   # Hypertension: Temporally related to hemorrhage, though unclear if
   preceeded or followed hemorrhage. Relatively significant increase from
   her documented baseline of 130-150 though given pvd and dm it is
   reasonable to think her arteries are generally less compliant so she
   would have hypertensive response with relatively less stimulation.
   Regardless requires improved control given seizure at SBP 180. BP has
   been in normal range, and dropped to 80s w/ labetalol yesterday.
   - Continue w/ IV Labetalol , 5mg prn for SBPs>160
   # Syncope: Unclear exact history but per team no post-ictal state at
   that time making seizure less likely for that. Arrythmia, sturctural
   heart abnormality are possible, as is dehydration and hypoglycemia.
   - monitor on tele
   - consider tte when more stable
   # Fever:
   - Had a witnessed aspiration event but no new infiltrates seen on CXR,
   not hypoxic.  Hold on empiric treatment
   - Concern for meningitis/encephalitis, had LP w/ no WBCs.
   - Blood and urine cultures pending.
   - CXR today
   # Toxic Mulitinodular Goiter:  TSH <0.02 which is usual; FT4 1.5
   - Restarted methimazole on [**10-1**].
   - Unlikely to be cause of current issues; but important to consider if
   no other cause arises
   # Diabetes: Hold oral hypoglycemics, SSI with q6 accu checks. Running
   in high 100s.
   # ESRD: on HD, continue cinacalcet and HD per renal recs.  [**Month (only) 51**] need
   phos binder when able to take po
   # CAD: holding aspirin as above but continue atorvastatin.
   #: Nutrition: NG tube in place, beginning TFs w/ recs from Nutrtion.
   # PPX: pneumoboots, bowel regimen, SSI, added  H2 blocker Ranitidine
   150mg NG, [**Hospital1 7**] for stress ulcer.
   # Access: right femoral CVC, right tunnelled IJ HD cath, Midline
   placement scheduled today, will remove the femoral line after
   successful placement.
   # Code: full, confirmed with sister.
   # Contact: [**First Name8 (NamePattern2) **] [**Name (NI) **] SISTER/hcp [**Telephone/Fax (1) 1589**] CELL
   [**Numeric Identifier 1590**]
   # Dispo: ICU pending hemodynamic and neurologic stability.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2113-9-29**] 06:32 AM
   Multi Lumen - [**2113-9-29**] 07:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2113-10-03 06:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MIDLINE - START [**2113-10-2**] 03:00 PM
   in IR R double lumen midline
 MULTI LUMEN - STOP [**2113-10-2**] 04:03 PM
   Febrile o/n --- cultured and started on vanc, zosyn, and cipro
 BLOOD CULTURED - At [**2113-10-2**] 09:23 PM
   right and left peripheral sticks
 SPUTUM CULTURE - At [**2113-10-2**] 10:24 PM
   ett
   Allergies:
   Lisinopril
   hyperkalemia at
   Verapamil
   Nausea/Vomiting
   Beta-Adrenergic Agents
   bradycardia;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Insulin - Regular - [**2113-10-3**] 04:27 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-10-3**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 36.4
C (97.5
   HR: 74 (72 - 98) bpm
   BP: 154/70(90) {107/48(66) - 159/70(90)} mmHg
   RR: 25 (15 - 37) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                    617 mL
                                                                    370 mL
   PO:
             TF:
                                                                    132 mL
                                                                    241 mL
   IVF:
                                                                    215 mL
                                                                     69 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    617 mL
                                                                    370 mL
   Respiratory support
   O2 Delivery Device: CPAP mask , Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 318 (211 - 366) mL
   PS : 10 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 75
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.33/46/146/24/-1
   Ve: 8.2 L/min
   PaO2 / FiO2: 365
   Physical Examination
   GEN:  Awake, moderately alert, not oriented, intermittently somnolent
   HEENT: PERRL, 4mm->3mm,
   PULM: mild rhonchi at bases bilaterally, clear superiorly
   CARD: RRR, s1, s2 wnl, 2/6 systolic murmor LSB, no rubs, no gallops
   ABD: soft, obese, nontender
   Peripheral Vascular: (Right radial pulse: 2+), (Left radial pulse: 2+),
   (Right DP pulse: 1+), (Left DP pulse: 2+)
   Skin:  Warm, dry
   Neurologic: Responds to: voice, commands, Movement: spontaneous,
   follows commands, Tone: moderate.
   Labs / Radiology
   159 K/uL
   10.2 g/dL
   297 mg/dL
   9.5 mg/dL
   24 mEq/L
   4.1 mEq/L
   65 mg/dL
   97 mEq/L
   137 mEq/L
   33.1 %
   16.1 K/uL
        [image002.jpg]
   ABG 6AM [**2113-10-3**]:  7.33/46/146/25/-1
   ABG 1030p, [**2113-10-2**] : 7.34/40/41/23/-3
                             [**2113-9-29**]  12:37 PM
                             [**2113-9-30**]  04:30 AM
                             [**2113-9-30**]  11:40 AM
                             [**2113-10-1**]  04:20 AM
                             [**2113-10-2**]  05:45 AM
                             [**2113-10-2**]  04:40 PM
                             [**2113-10-3**]  03:05 AM
                             [**2113-10-3**]  06:00 AM
   WBC
   10.3
   11.7
   10.2
   12.5
   16.1
   Hct
   40.4
   36.8
   38.9
   37.2
   33.1
   Plt
   176
   171
   149
   161
   159
   Cr
   6.8
   8.0
   6.0
   7.9
   9.5
   TropT
   0.36
   0.34
   TCO2
   23
   25
   Glucose
   149
   141
   141
   129
   297
   Other labs: PT / PTT / INR:14.8/26.2/1.3, CK / CKMB /
   Troponin-T:136/4/0.34, ALT / AST:13/16, Alk Phos / T Bili:102/0.3,
   Amylase / Lipase:67/14, Differential-Neuts:84.7 %, Lymph:8.2 %,
   Mono:5.7 %, Eos:1.2 %, Lactic Acid:1.2 mmol/L, Albumin:3.8 g/dL,
   Ca++:9.0 mg/dL, Mg++:2.4 mg/dL, PO4:7.7 mg/dL
   CXR [**2113-10-3**]: increasing RLL consolidation, cephalization of pulm
   vasculature, fluid settling along fissures in R.
   Sputum Gram stain: 4+ gram positive cocci in pairs and clusters
   Sputum cx: pending
   Urine cx: pending, not obtained yet.
   Blood cx: pending
   Assessment and Plan
   79 yo woman with h/o esrd on hd, dm, pvd who presented with SDH and IPH
   after a syncopal episode at home, hypertension and seizure.  Intubated
   on [**9-30**] for MRI with goal of extubation on [**10-1**] following LP under
   fluoro, unable to be removed from vent for poor RSBIs and persistent
   decreased MS [**First Name (Titles) **] [**Last Name (Titles) 1743**].
   # Ventiliation:  Ventilation improving, but still requiring, on PS 10,
   PEEP 5, w/ RSBIs around 100, did not have previous respiratory failure,
   should be able to come off of vent. [**Month (only) 51**] have developing PNA w/ fever
   and RLL consolidation
   -continue following RSBIs, consider SBTs even with RSBIs>100,
   -elevate head of bed
   -Continue Vanc, Zosyin, Cipro for PNA
   -Consider extubation if MS improves after HD today.
   # AMS: Continues to have AMS, but showing slow improvement.  Most
   likely due to SDH/IPH.  Other etiologies include infectious,
   toxic-metabolic, seizure, CVA, sepsis. Most likely multifactorial.
   - MRI shows no interval change, no evidence of infarction, no midline
   shift, MRA shows no stenosis.
   - LP negative for pleocytosis
   - Too far out from seizure to be post-ictal
   - EEG did not show seizure activity, only encephalopathy- could be
   infectious or toxic-metabolic
   - Following lytes
   - Tox screen neg
   - Follow dilantin level.  Goal between 10 and 20.  Today 10.3. Increase
   dilantin if falls <10.
   - Avoid sedating meds as much as possible
   - Check urine if possible,
   - MS may improve after HD
   # Fever:
   - Had a witnessed aspiration event and now ?new consolidation, ?edema
   vs PNA on CXR, not hypoxic.
   - Concern for meningitis/encephalitis, had LP w/ no WBCs.
   - Blood and urine cultures pending.
   - Started empiric treatment for HAP w/ increasing fevers yesterday,
   Vanc, Zosyn, Cipro, sputum cx pending.
   - Sputum Gram stain: 4+ gram pos cocci in pars and clusters
   - Decreased fever after Abx started.
   - Check LFTs, [**Doctor First Name 354**], Lip to check for other locus of infection/abd
   process
   - Contact ID for Abx approval
   # Seizure: No known history of seizure, EEG was neg, but was already on
   Dilantin at time of study.  Most likely [**2-18**] SDH/IPH.  Other possible
   etiologies include hypertensive emergency (BPs 180s at time of seizure)
   or infectious (i.e. meningitis/encephalitis).
   -Follow dilantin levels
   # SDH/IPH: Likely traumatic given fall though also possible [**2-18**]
   hypertension given newly elevated BP in house. Stable by imaging.
   - if no further acute change in MS, no need to re-image.
   # Hypertension: Temporally related to hemorrhage, though unclear if
   preceeded or followed hemorrhage. Relatively significant increase from
   her documented baseline of 130-150 though given pvd and dm it is
   reasonable to think her arteries are generally less compliant so she
   would have hypertensive response with relatively less stimulation.
   Regardless requires improved control given seizure at SBP 180. BP has
   been in normal range, and dropped to 80s w/ labetalol yesterday.
   - Continue w/ IV Labetalol , 5mg prn for SBPs>160
   # Toxic Mulitinodular Goiter:  TSH <0.02 which is usual; FT4 1.5
   - Restarted methimazole on [**10-1**].
   - Unlikely to be cause of current issues; but important to consider if
   no other cause arises
   # Diabetes: Hold oral hypoglycemics, SSI with q6 accu checks. Running
   in high 100s, last 290s after TF started. Increase SSI, consider adding
   standing insulin order. Reassess after HD today.
   # ESRD: on HD, continue cinacalcet and HD per renal recs.
   - HD today.
   # CAD: holding aspirin as above but continue atorvastatin.
   #: Nutrition: NG tube in place, TFs w/ recs from [**Last Name (LF) 1732**], [**First Name3 (LF) **]
   continue.
   # PPX: pneumoboots, bowel regimen, SSI, added  H2 blocker Ranitidine
   150mg NG, [**Hospital1 7**] for stress ulcer.
   # Access: right tunnelled IJ HD cath, Midline placed R arm,
   # Code: full, confirmed with sister.
   # Contact: [**First Name8 (NamePattern2) **] [**Name (NI) **] SISTER/hcp [**Telephone/Fax (1) 1589**] CELL
   [**Numeric Identifier 1590**]
   # Dispo: ICU pending hemodynamic and neurologic stability.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2113-10-2**] 06:00 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2113-9-29**] 06:32 AM
   Midline - [**2113-10-2**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2113-10-04 05:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Hemodyalisis
 BLOOD CULTURED - At [**2113-10-3**] 10:30 AM
   BC drawn from HD access.
 SPUTUM CULTURE - At [**2113-10-3**] 11:00 AM (Mini BAL)
   Allergies:
   Lisinopril
   hyperkalemia at
   Verapamil
   Nausea/Vomiting
   Beta-Adrenergic Agents
   bradycardia;
   Last dose of Antibiotics:
   Vancomycin - [**2113-10-3**] 02:30 PM
   Piperacillin - [**2113-10-4**] 02:23 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-10-4**] 05:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.9
C (100.2
   HR: 78 (57 - 103) bpm
   BP: 127/53(71) {69/32(39) - 180/81(103)} mmHg
   RR: 24 (20 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  1,561 mL
                                                                    405 mL
   PO:
                                                                     60 mL
             TF:
                                                                    541 mL
                                                                    206 mL
   IVF:
                                                                    540 mL
                                                                    109 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,561 mL
                                                                    405 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 310 (0 - 323) mL
   PS : 10 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 148  at 4AM today
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: 7.33/46/146/27/-1
   Ve: 7.1 L/min
   PaO2 / FiO2: 365
   Physical Examination
   GEN:  Somnolent, intubated
   HEENT: pupils reactive, 5mm->3mm
   PULM: mild rhonchi at bases bilaterally, clear superiorly
   CARD: RRR, s1, s2 wnl, 2/6 systolic murmor LSB, no rubs, no gallops
   ABD: soft, obese, nontender
   Peripheral Vascular: (Right radial pulse: 2+), (Left radial pulse: 2+),
   (Right DP pulse: 0-1+), (Left DP pulse: 0-1+)
   Skin:  Warm, dry
   Neurologic: Responds to: voice, commands intermittently.   Tone:
   moderate.
   Labs / Radiology
   163 K/uL
   10.3 g/dL
   296 mg/dL
   5.9 mg/dL
   27 mEq/L
   4.2 mEq/L
   38 mg/dL
   97 mEq/L
   137 mEq/L
   34.6 %
   15.6 K/uL
        [image002.jpg]
                             [**2113-9-29**]  12:37 PM
                             [**2113-9-30**]  04:30 AM
                             [**2113-9-30**]  11:40 AM
                             [**2113-10-1**]  04:20 AM
                             [**2113-10-2**]  05:45 AM
                             [**2113-10-2**]  04:40 PM
                             [**2113-10-3**]  03:05 AM
                             [**2113-10-3**]  06:00 AM
                             [**2113-10-4**]  03:53 AM
   WBC
   10.3
   11.7
   10.2
   12.5
   16.1
   15.6
   Hct
   40.4
   36.8
   38.9
   37.2
   33.1
   34.6
   Plt
   176
   171
   149
   161
   159
   163
   Cr
   6.8
   8.0
   6.0
   7.9
   9.5
   5.9
   TropT
   0.36
   0.34
   TCO2
   23
   25
   Glucose
   149
   141
   141
   129
   297
   296
   Other labs: PT / PTT / INR:14.8/26.2/1.3, CK / CKMB /
   Troponin-T:136/4/0.34, ALT / AST:[**8-26**], Alk Phos / T Bili:89/0.3, Amylase
   / Lipase:45/34, Differential-Neuts:84.7 %, Lymph:8.2 %, Mono:5.7 %,
   Eos:1.2 %, Lactic Acid:1.2 mmol/L, Albumin:3.8 g/dL, LDH:169 IU/L,
   Ca++:9.8 mg/dL, Mg++:2.1 mg/dL, PO4:4.7 mg/dL
   Phenytoin  10.2
Mini-BAL   GRAM STAIN (Final [**2113-10-3**]):
      >25 PMNs and <10 epithelial cells/100X field.
      4+   (>10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS, CHAINS, AND CLUSTERS.
      2+   (1-5 per 1000X FIELD):   MULTIPLE ORGANISMS CONSISTENT WITH
                                    OROPHARYNGEAL FLORA.
   Assessment and Plan
   79 yo woman with h/o esrd on hd, dm, pvd who presented with SDH and IPH
   after a syncopal episode at home, hypertension and seizure.  Intubated
   on [**9-30**] for MRI with goal of extubation on [**10-1**] following LP under
   fluoro, unable to be removed from vent for poor RSBIs and persistent
   decreased MS [**First Name (Titles) **] [**Last Name (Titles) 1743**].
   # Ventilation:  Difficulty weaning from vent likely [**2-18**] PNA.  Continues
   to have unfavorable RSBIs [**2-18**] low tidal volume.  Requiring PS 10, PEEP
   5.
   -will do SBT with careful monitoring and ABG
 hr post.
   -elevate head of bed
   -Continue Vanc, Zosyin, Cipro for PNA.  Can d/c cipro once 48 hr with
   no GNR in sputum culture.
   -Continue to follow RSBI
   # AMS: Continues to have AMS, likely due to SDH/IPH with a superimposed
   toxic-metabolic component.  LP not c/w infection, EEG without seizure
   activity.  MRI without evidence of infarction and MRA shows no
   stenosis.
   - Following lytes
   - Follow dilantin level.  Goal between 10 and 20.  Today 10.3. Increase
   dilantin if falls <10.
   - Avoid sedating meds as much as possible
   - Check urine if possible,
   # Fever: Likely [**2-18**] PNA in setting of witnessed aspiration event.
   Sputum with GPC in P/C/C, fever, WBC and RLL opacification on CXR.  LP,
   LFTs reassuring.  Blood cultures pending.  No urine.
   - Continue HAP treatment from [**10-3**] to end on [**10-10**] with Vanc, Zosyn,
   Cipro.  [**Month (only) 51**] narrow per sputum cx results.
   - Would consider echo if fevers not resolving or (+) cultures but low
   suspicion for endocarditis given evidence for PNA.
   # Seizure: No known history of seizure, EEG was neg, but was already on
   Dilantin at time of study.  Most likely [**2-18**] SDH/IPH.  Other possible
   etiologies include hypertensive emergency (BPs 180s at time of seizure)
   or infectious (i.e. meningitis/encephalitis).
   -Follow dilantin levels
   -Neuro recs
   # SDH/IPH: Likely traumatic given fall though also possible [**2-18**]
   hypertension given newly elevated BP in house. Stable by imaging.
   - if no further acute change in MS, no need to re-image.
   # Hypertension: Temporally related to hemorrhage, though unclear if
   preceeded or followed hemorrhage. Relatively significant increase from
   her documented baseline of 130-150 though given pvd and dm it is
   reasonable to think her arteries are generally less compliant so she
   would have hypertensive response with relatively less stimulation.
   Regardless requires improved control given seizure at SBP 180. BP has
   been in normal range, and dropped to 80s w/ labetalol yesterday.
   - Continue w/ IV Labetalol , 5mg prn for SBPs>160
   # Toxic Mulitinodular Goiter:  TSH <0.02 which is usual; FT4 1.5
   - Restarted methimazole on [**10-1**].
   - Unlikely to be cause of current issues; but important to consider if
   no other cause arises
   # Diabetes: BS around 200s, but normal when NPO.    Required 28 U
   coverage yesterday
   - Hold oral hypoglycemics
   - SSI with q6 accu checks.
   - Start NPH at 10 U [**Hospital1 7**], hold for NPO
   # ESRD: on HD, continue cinacalcet.  S/P HD yesterday
   - HD per renal
   # CAD: holding aspirin as above but continue atorvastatin.
   #: Nutrition: NG tube in place, TFs w/ recs from [**Last Name (LF) 1732**], [**First Name3 (LF) **]
   continue.
   # PPX: pneumoboots, bowel regimen, SSI, Ranitidine.
   # Access: right tunnelled IJ HD cath, Midline placed R arm,
   # Code: full, confirmed with sister.
   # Contact: [**First Name8 (NamePattern2) **] [**Name (NI) **] SISTER/hcp [**Telephone/Fax (1) 1589**] CELL
   [**Numeric Identifier 1590**]
   # Dispo: ICU pending hemodynamic and neurologic stability.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2113-10-3**] 06:30 PM 35 mL/hour
   Glycemic Control:  Insulin fixed + sliding scale
   Lines:
   Dialysis Catheter - [**2113-9-29**] 06:32 AM
   Midline - [**2113-10-2**] 03:00 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: Ranitidine
   VAP:  per routine
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU, intubated

2113-10-05 06:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Broncoscopy: erythemetous bronchi
   Extubated, continued to have rapid shallow breathing but maintaining
   sats.
   Cipro continued for GNRs in sputum
   Tube feeds held given extubation
   Allergies:
   Lisinopril
   hyperkalemia at
   Verapamil
   Nausea/Vomiting
   Beta-Adrenergic Agents
   bradycardia;
   Last dose of Antibiotics:
   Vancomycin - [**2113-10-3**] 02:30 PM
   Piperacillin - [**2113-10-4**] 02:23 AM
   Piperacillin/Tazobactam (Zosyn) - [**2113-10-5**] 03:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Sore throat- following extubation
   No CP, ABD pain or other pain.
   Flowsheet Data as of  [**2113-10-5**] 06:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.1
C (97
   HR: 66 (66 - 99) bpm
   BP: 155/54(79) {88/39(50) - 161/68(90)} mmHg
   RR: 23 (13 - 41) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                    675 mL
                                                                    232 mL
   PO:
             TF:
                                                                    155 mL
   IVF:
                                                                    340 mL
                                                                    112 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    675 mL
                                                                    232 mL
   Respiratory support
   O2 Delivery Device: NC on 3L
   PRE-extubation on PSV, [**10-22**], FiO2 40% Sp)2 98%
   ABG: 7.39/50/123/31/4
   Post extubation on scoop mask
   ABG: 7.37/48/87.[**Numeric Identifier 181**]/21/1
   Physical Examination
   GEN:  Awake, alert, much improved in appearance, extubated, attempting
   to speak, NAD
   HEENT: pupils reactive, 5mm->3mm
   PULM: moderate wet sounding diffuse rhonchi bilaterally
   CARD: RRR, s1, s2 wnl, 2/6 systolic murmor LSB, no rubs, no gallops
   ABD: soft, obese, nontender
   Peripheral Vascular: (Right radial pulse: 2+), (Left radial pulse: 1+),
   (Right DP pulse: 1+), (Left DP pulse: 2+)
   Skin:  Warm, dry
   Neurologic: Responds to: voice, follows commands, alert, oriented to
   person, month, year, president. Strength 4/5 upper and lower, L < R,
   reflexes 2+ biceps bil., 0-1+ patellar and Achilles, toes downgoing on
   left, no toes on right, unclear response. Pt appears to have some
   diffuse left-sided weakness.
   Labs / Radiology
   195 K/uL
   10.8 g/dL
   133 mg/dL
   7.6 mg/dL
   21 mEq/L
   4.6 mEq/L
   52 mg/dL
   98 mEq/L
   139 mEq/L
   36.7 %
   14.9 K/uL
        [image002.jpg]
                             [**2113-9-30**]  11:40 AM
                             [**2113-10-1**]  04:20 AM
                             [**2113-10-2**]  05:45 AM
                             [**2113-10-2**]  04:40 PM
                             [**2113-10-3**]  03:05 AM
                             [**2113-10-3**]  06:00 AM
                             [**2113-10-4**]  03:53 AM
                             [**2113-10-4**]  11:59 AM
                             [**2113-10-4**]  04:11 PM
                             [**2113-10-5**]  03:30 AM
   WBC
   10.2
   12.5
   16.1
   15.6
   14.9
   Hct
   38.9
   37.2
   33.1
   34.6
   36.7
   Plt
   149
   161
   159
   163
   195
   Cr
   6.0
   7.9
   9.5
   5.9
   7.6
   TropT
   0.34
   TCO2
   23
   25
   31
   29
   Glucose
   141
   129
   297
   296
   133
   Other labs: PT / PTT / INR:14.3/31.4/1.2, CK / CKMB /
   Troponin-T:136/4/0.34, ALT / AST:[**8-26**], Alk Phos / T Bili:89/0.3, Amylase
   / Lipase:45/34, Differential-Neuts:78.9 %, Lymph:11.7 %, Mono:5.0 %,
   Eos:3.9 %, Lactic Acid:1.2 mmol/L, Albumin:3.8 g/dL, LDH:169 IU/L,
   Ca++:10.1 mg/dL, Mg++:2.4 mg/dL, PO4:5.9 mg/dL
   Fluid analysis / Other labs: FSH: 4.1
   Dilantin level: 9.1
   BAL fluid:
   WBC: 0
   RBC: 0
   Polys: 82
   Lymphs: 3
   Monos: 6
   Eos: 2
   Macro: 7
   Microbiology: BAL:    GRAM STAIN (Prelim [**2113-10-4**]):
         NOPOLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
   Micro: min-BAL on [**2113-10-3**] Prelim: STAPH AUREUS COAG +.    >100,000
   ORGANISMS/ML, gram neg rods, pending.
   MRSA nasal swab: NEG
   CXR: extubated, NG tube below diaphragm, RLL consolidation no sig
   change, ?clearer at LL vs larger respiration, angles clear.
   Assessment and Plan
   79 yo woman with h/o esrd on hd, dm, pvd who presented with SDH and IPH
   after a syncopal episode at home, hypertension and seizure.  Intubated
   on [**9-30**] for MRI with goal of extubation on [**10-1**] following LP under
   fluoro, unable to be removed from vent for poor RSBIs and persistent
   decreased MS [**First Name (Titles) **] [**Last Name (Titles) 1743**].
   # Ventilation:  Had difficulty weaning from vent likely [**2-18**] PNA.  Had
   unfavorable RSBIs [**2-18**] low tidal volume.  Requiring PS 10, PEEP 5, was
   extubated yesterday, and continued to have shallow breathing, but has
   had good O2 saturation since and O2 has been weaned down to 3L NC with
   Sats in the 97-100
   -ABG post extubation as above.
   -elevate head of bed
   -Continue Vanc, Zosyin, Cipro for PNA.  Sputum Cx grew small numbers
   GNR in sputum culture. Continue all three until culture and
   sensitivities on the gram neg rods result.
   -Continue to wean O2.
   # AMS: Continues to have AMS, likely due to SDH/IPH with a superimposed
   toxic-metabolic component.  LP not c/w infection, EEG without seizure
   activity.  MRI without evidence of infarction and MRA shows no
   stenosis.
   - Following lytes
   - Follow dilantin level.  Goal between 10 and 20.  Dilantin today
   subtherapeutic at 9.1, will add 100mg bolus, continue the 125mg PO TID.
   - Avoid sedating meds as much as possible
   - Mental status improving significantly, awake, alert, oriented as
   above. Continue to assess. Re-imaging worsening or acute change.
   # Fever: Likely [**2-18**] PNA in setting of witnessed aspiration event.
   Sputum with GPC in P/C/C, fever, WBC and RLL opacification on CXR.  LP,
   LFTs reassuring.  Blood cultures pending.  No urine.
   - Continue HAP treatment from [**10-3**] to end on [**10-10**] with Vanc, Zosyn,
   Cipro.  [**Month (only) 51**] narrow per sputum cx results.
   - Would consider echo if fevers not resolving or (+) cultures but low
   suspicion for endocarditis given evidence for PNA.
   # Seizure: No known history of seizure, EEG was neg, but was already on
   Dilantin at time of study.  Most likely [**2-18**] SDH/IPH.  Other possible
   etiologies include hypertensive emergency (BPs 180s at time of seizure)
   or infectious (i.e. meningitis/encephalitis).
   -Follow dilantin levels
   -Neuro recs
   # SDH/IPH: Likely traumatic given fall though also possible [**2-18**]
   hypertension given newly elevated BP in house. Stable by imaging.
   - Per Neurosurgery recommendation, if no acute change, would re-image
   w/ CT-HEAD in 1 month and would restart Heparin SQ prophylaxis for DVT
   now that bleed is stable.
   # Hypertension: Temporally related to hemorrhage, though unclear if
   preceeded or followed hemorrhage. Relatively significant increase from
   her documented baseline of 130-150 though given pvd and dm it is
   reasonable to think her arteries are generally less compliant so she
   would have hypertensive response with relatively less stimulation.
   Regardless requires improved control given seizure at SBP 180. BP has
   been in normal range, and dropped to 80s w/ labetalol yesterday.
   - Continue w/ IV Labetalol , 5mg prn for SBPs>160
   - Start Labetalol 100mg PO BID, per Renal recs. Hold for SBP < 120,
   titrate down if necessary on the floor.
   # Toxic Mulitinodular Goiter:  TSH <0.02 which is usual; FT4 1.5
   - Restarted methimazole on [**10-1**].
   - Unlikely to be cause of current issues; but important to consider if
   no other cause arises
   # Diabetes: BS around 200s, but normal when NPO.    Required 28 U
   coverage yesterday
   - Hold oral hypoglycemics
   - SSI with q6 accu checks.
   - Start NPH at 10 U [**Hospital1 7**], hold for NPO
   # ESRD: on HD, followed by renal.
   - continue cinacalcet
   - HD per renal
   - Renal recs from [**2113-10-5**]: HD w2.5kg removed, cx from HD catheter.
   Start PO labetolol 100mg [**Hospital1 7**] for BP control, titrate down if needed.
   # CAD: holding aspirin as above but continue atorvastatin.
   #: Nutrition: NG tube in place, reestart TFs at same as previous w/
   recs from Nutrtion.
   -Speech and swallow consult for eval before starting PO.
   # PPX: pneumoboots, bowel regimen, SSI, Ranitidine, Heparin SQ
   # Access: right tunnelled IJ HD cath, Midline placed R arm,
   # Code: full, confirmed with sister.
   # Contact: [**First Name8 (NamePattern2) **] [**Name (NI) **] SISTER/hcp [**Telephone/Fax (1) 1589**] CELL
   [**Numeric Identifier 1590**]
   # Dispo: ICU today as needing frequent suctioning, but has been
   decreasing and may be appropriate for floor today if improves.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2113-10-3**] 06:30 PM 35 mL/hour
   Glycemic Control:  Insulin fixed + sliding scale
   Lines:
   Dialysis Catheter - [**2113-9-29**] 06:32 AM
   Midline - [**2113-10-2**] 03:00 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: Ranitidine
   VAP:  per routine
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU, intubated
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2113-9-29**] 06:32 AM
   Midline - [**2113-10-2**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2113-10-05 11:21:00 Physician Attending Progress Note
Chief Complaint: respiratory distress, SDH/IPH
   HPI:
   24 Hour Events:
   Bronchoscopy
   Extubated
   Episode of bradycardia this morning associated with mushroom cath
   placement.
   History obtained from Medical records, ICU team
   Patient unable to provide history: Encephalopathy
   Allergies:
   Lisinopril
   hyperkalemia at
   Verapamil
   Nausea/Vomiting
   Beta-Adrenergic Agents
   bradycardia;
   Last dose of Antibiotics:
   Vancomycin - [**2113-10-3**] 02:30 PM
   Piperacillin - [**2113-10-4**] 02:23 AM
   Piperacillin/Tazobactam (Zosyn) - [**2113-10-5**] 03:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   statin, thiamine, methimazole, senna, Zosyn, cipro, vanco, CHG,
   Dilantin, SQI, labetalol, Tylenol prn
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-10-5**] 11:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.4
C (97.5
   HR: 62 (62 - 99) bpm
   BP: 163/57(82) {88/39(50) - 175/68(90)} mmHg
   RR: 19 (13 - 41) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                    675 mL
                                                                    399 mL
   PO:
             TF:
                                                                    155 mL
   IVF:
                                                                    340 mL
                                                                    159 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    675 mL
                                                                    399 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 280 (272 - 280) mL
   PS : 10 cmH2O
   RR (Spontaneous): 31
   PEEP: 5 cmH2O
   FiO2: 40%
   SpO2: 100%
   ABG: 7.37/48/87.[**Numeric Identifier 181**]/21/1
   Ve: 6.1 L/min
   PaO2 / FiO2: 220
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   10.8 g/dL
   195 K/uL
   133 mg/dL
   7.6 mg/dL
   21 mEq/L
   4.6 mEq/L
   52 mg/dL
   98 mEq/L
   139 mEq/L
   36.7 %
   14.9 K/uL
        [image002.jpg]
                             [**2113-9-30**]  11:40 AM
                             [**2113-10-1**]  04:20 AM
                             [**2113-10-2**]  05:45 AM
                             [**2113-10-2**]  04:40 PM
                             [**2113-10-3**]  03:05 AM
                             [**2113-10-3**]  06:00 AM
                             [**2113-10-4**]  03:53 AM
                             [**2113-10-4**]  11:59 AM
                             [**2113-10-4**]  04:11 PM
                             [**2113-10-5**]  03:30 AM
   WBC
   10.2
   12.5
   16.1
   15.6
   14.9
   Hct
   38.9
   37.2
   33.1
   34.6
   36.7
   Plt
   149
   161
   159
   163
   195
   Cr
   6.0
   7.9
   9.5
   5.9
   7.6
   TropT
   0.34
   TCO2
   23
   25
   31
   29
   Glucose
   141
   129
   297
   296
   133
   Other labs: PT / PTT / INR:14.3/31.4/1.2, CK / CKMB /
   Troponin-T:136/4/0.34, ALT / AST:[**8-26**], Alk Phos / T Bili:89/0.3, Amylase
   / Lipase:45/34, Differential-Neuts:78.9 %, Lymph:11.7 %, Mono:5.0 %,
   Eos:3.9 %, Lactic Acid:1.2 mmol/L, Albumin:3.8 g/dL, LDH:169 IU/L,
   Ca++:10.1 mg/dL, Mg++:2.4 mg/dL, PO4:5.9 mg/dL
   Fluid analysis / Other labs: DPH: 9.1
   Microbiology: Sputum with Staph (sensis pending) and GNRs(low # of
   coloncies)
   Assessment and Plan
   79-year-old woman with SDH/IPH and seizures, with course complicated by
   VAP and ongoing encephalopathy.  She has tolerated extubation.
   Encephalopathy (SDH/IPH/infection)
   By history, improving over the past couple of days.
   Discuss with neurosurgery whether interval imaging is required.
   Continue Dilantin
   VAP
   Ask lab to speciate GNRs
   Continue vanco, Zosyn, and cipro for now.
   NT suction as needed
   ESRD
   HD per renal
   Other problems (diabetes/hypertension/hyperthyroidism/etc.) as per ICU
   team note from today
   ICU Care
   Nutrition: tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2113-9-29**] 06:32 AM
   Midline - [**2113-10-2**] 03:00 PM
   Prophylaxis:
   DVT: Boots(d/w neurosurg about SQH)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU for now ; potential call-out later today.